US05491145
Production of 6-(2,2-dimethyl-4-sulfamoyl-1-butoxy)-7-methylimidazo[1,2-b ]pyridazine
Using 0.84 g of 6-chloro-7-methylimidazo[1,2-b]pyridazine and 0.91 g of 4-hydroxy-3,3-dimethyl-1-butanesulfonamide, 0.41 g of title compound was obtained in the same manner as in Example 3.

reactant | 6-chloro-7-methylimidazo[1,2-b]pyridazine | 0.84 g | ClC=1C(=CC=2N(N1)C=CN2)C | C7H6ClN3
reactant | 4-hydroxy-3,3-dimethyl-1-butanesulfonamide | 0.91 g | OCC(CCS(=O)(=O)N)(C)C | C6H15NO3S
product | 6-(2,2-dimethyl-4-sulfamoyl-1-butoxy)-7-methylimidazo[1,2-b ]pyridazine | 0.41 g | CC(COC=1C(=CC=2N(N1)C=CN2)C)(CCS(N)(=O)=O)C | C13H20N4O3S
